US08614206B2
To a solution of 5-((4-methoxyphenyl)methoxy)-1-(2-methyl-4-nitro-pyrazol-3-yl)azepan-4-ol (0.80 g, 2.18 mmol) in EtOH (30 mL) and water (3 mL) was added iron powder (0.90 g, 16.11 mmol) The reaction mixture was heated at 100° C. for 2 hr, cooled to room temperature, filtered through Celite® and the filtrate concentrated under reduced pressure. The residue was dissolved in DCM (50 mL) and washed with water (50 mL). The aqueous layer was re-extracted with DCM (50 mL) and the combined organic layers passed through a phase separation cartridge and concentrated under reduced pressure to give a pale orange gum. To a solution of this gum (0.55 g, 1.60 mmol) in DMF (5 mL) was added 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid (0.62 g, 1.76 mmol), HATU (0.85 g, 2.40 mmol) and DIPEA (0.56 mL, 3.20 mmol). The reaction mixture was stirred at room temperature for 66 hr, quenched with a saturated aqueous NaHCO3 (200 mL) and extracted with EtOAc (3×150 mL). The combined organic layers were washed with brine (100 mL), separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-10% MeOH/EtOAc) gave tert-butyl N-(2-(2,6-difluorophenyl)-4-((5-(4-hydroxy-5-((4-methoxyphenyl)methoxy)azepan-1-yl)-1-methyl-pyrazol-4-yl)carbamoyl)thiazol-5-yl]carbamate as a pale pink solid (530 mg, 35% over two steps). 1H NMR (400 MHz, CDCl3) δ 10.44 (s, 1H), 9.02 (s, 1H), 7.91 (s, 1H), 7.38-7.28 (m, 1H), 7.25 (d, J=8.2 Hz, 2H), 7.00 (t, J=8.7 Hz, 2H), 6.92-6.84 (m, 2H), 4.61 (d, J=11.1 Hz, 1H), 4.40 (d, J=11.1 Hz, 1H), 3.91 (t, J=8.6 Hz, 1H), 3.81 (s, 3H), 3.73 (s, 3H), 3.55 (td, J=8.4, 3.4 Hz, 1H), 3.34-3.13 (m, 4H), 3.10 (s, 1H), 2.22-2.14 (m, 2H), 1.93-1.77 (m, 2H), 1.62-1.50 (m, 9H).

reactant | 5-((4-methoxyphenyl)methoxy)-1-(2-methyl-4-nitro-pyrazol-3-yl)azepan-4-ol | 2.18 mmol, 0.80 g | COC1=CC=C(C=C1)COC1C(CCN(CC1)C=1N(N=CC1[N+](=O)[O-])C)O | C18H24N4O5
reactant | 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)thiazole-4-carboxylic acid | 1.76 mmol, 0.62 g | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
reactant | HATU | 2.40 mmol, 0.85 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.20 mmol, 0.56 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | water | 3 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | iron | 16.11 mmol, 0.90 g | [Fe] | Fe
product | tert-butyl N-(2-(2,6-difluorophenyl)-4-((5-(4-hydroxy-5-((4-methoxyphenyl)methoxy)azepan-1-yl)-1-methyl-pyrazol-4-yl)carbamoyl)thiazol-5-yl]carbamate | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1N1CCC(C(CC1)OCC1=CC=C(C=C1)OC)O)C)=O)NC(OC(C)(C)C)=O | C33H38F2N6O6S
